US06645968B2
N-(3-fluorophenyl)-1,2-ethanediamine Monohydrochloride
Equimolar quantities (45.7 mmol) of 2-oxazolidinone and 3-fluoroaniline hydrochloride were combined, heated to 165° C., and stirred for 18 hours. The dark-colored mixture was allowed to cool to ambient temperature and treated with ethanol (125 mL). The suspension was heated to reflux for 1 hour, allowed to cool to ambient temperature, treated with diethyl ether (125 mL), and the suspension was cooled to 0° C. for 2 hours. Filtration provided 5.53 g of the desired product as colorless crystals which were used without further purification.

reactant | 2-oxazolidinone | 45.7 mmol | O1C(NCC1)=O | C3H5NO2
reactant | 3-fluoroaniline hydrochloride | Cl.FC=1C=C(N)C=CC1
reactant | ethanol | 125 mL | C(C)O | C2H6O
solvent | diethyl ether | 125 mL | C(C)OCC | C4H10O
product | N-(3-fluorophenyl)-1,2-ethanediamine Monohydrochloride | 5.53 g | Cl.FC=1C=C(C=CC1)NCCN | InChI=1S/C8H11FN2.ClH/c9-7-2-1-3-8(6-7)11-5-4-10;/h1-3,6,11H,4-5,10H2;1H
